2113-03-28 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Pneumonia
   24 Hour Events:
 INVASIVE VENTILATION - START [**2113-3-27**] 09:35 PM
 MULTI LUMEN - START [**2113-3-27**] 10:29 PM
 ARTERIAL LINE - START [**2113-3-28**] 12:30 AM
 NASAL SWAB - At [**2113-3-28**] 01:10 AM
 SPUTUM CULTURE - At [**2113-3-28**] 01:10 AM
 BLOOD CULTURED - At [**2113-3-28**] 03:28 AM
 EKG - At [**2113-3-28**] 03:28 AM
   - Admitted from ED, A-line placed
   - Treated with Levo / Zosyn for HAP in ICU (given Vanco in ED)
   - Hemodynamics poor, requiring 3 pressors to keep MAP > 65
   - Fluid resuscitated 8L NS in ED
   - Poor vent tolerating despite Midazolam 8mg & Fentanyl 300 with
   boluses, patient was then paralyzed with Vecuronium / Cystcuronium
   - Started on Hydrocortisone 100mg Q8H
   - Esophageal balloon placed at 7am, PEEP increased to 18
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2113-3-28**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 300 mcg/hour
   Phenylephrine - 2 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Cisatracurium - 0.06 mg/Kg/hour
   Norepinephrine - 0.35 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-3-27**] 11:49 PM
   Heparin Sodium (Prophylaxis) - [**2113-3-27**] 11:49 PM
   Vecuronium - [**2113-3-28**] 04:50 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2113-3-28**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Respiratory: Cough, Tachypnea
   Genitourinary: Foley
   Endocrine: Hyperglycemia, History of thyroid disease
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2113-3-28**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.4
   Tcurrent: 39.7
C (103.4
   HR: 100 (97 - 112) bpm
   BP: 116/50(67) {103/45(-10) - 151/60(83)} mmHg
   RR: 32 (29 - 32) insp/min
   SpO2: 71%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 22 (13 - 22)mmHg
   Mixed Venous O2% Sat: 93 - 93
   Total In:
                                                                    395 mL
                                                                  1,632 mL
   PO:
   TF:
   IVF:
                                                                    395 mL
                                                                  1,532 mL
   Blood products:
   Total out:
                                                                     90 mL
                                                                    190 mL
   Urine:
                                                                     90 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    305 mL
                                                                  1,442 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 450) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   Compliance: 27.1 cmH2O/mL
   SpO2: 71%
   ABG: 7.13/50/65/16/-12
   Ve: 12.4 L/min
   PaO2 / FiO2: 65
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, Conjunctiva pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   93 K/uL
   11.6 g/dL
   148 mg/dL
   1.3 mg/dL
   16 mEq/L
   4.5 mEq/L
   21 mg/dL
   114 mEq/L
   138 mEq/L
   32.5 %
   2.1 K/uL
        [image002.jpg]
                             [**2113-3-27**]  10:31 PM
                             [**2113-3-27**]  11:21 PM
                             [**2113-3-28**]  01:29 AM
                             [**2113-3-28**]  02:16 AM
                             [**2113-3-28**]  03:15 AM
                             [**2113-3-28**]  03:24 AM
                             [**2113-3-28**]  03:59 AM
                             [**2113-3-28**]  05:06 AM
                             [**2113-3-28**]  06:20 AM
   WBC
   2.1
   Hct
   35
   32.5
   Plt
   93
   Cr
   1.3
   TropT
   0.04
   TCO2
   18
   17
   17
   16
   20
   16
   18
   Glucose
   148
   Other labs: PT / PTT / INR:18.1/64.8/1.7, CK / CKMB /
   Troponin-T:794/7/0.04, ALT / AST:34/60, Alk Phos / T Bili:63/1.2,
   Differential-Neuts:69.0 %, Lymph:26.7 %, Mono:2.3 %, Eos:1.4 %,
   Fibrinogen:390 mg/dL, Lactic Acid:5.1 mmol/L, Ca++:6.1 mg/dL, Mg++:2.3
   mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   73 yo F with DM, HTN, Hyperlipidemia, p/w PNA, intubated in the ED
   .
   # Sepsis: Likely source is PNA given clinical history, leukocytosis
   with bandemia and CXR findings.  Other possiblities include urine or
   bowel.  Patient given 8L NS in ED, CVP 20, SVO2 92, on Levophed.
   Basically, has recieved Early Goal Directed therapy in ED.  Lactate
   6.7, then 2.4 on transfer.  Hct 38.  Then required 3 pressor support
   for MAP > 65.
   - Monitor CVP goal > 12
   - Trend HCT
   - Levophed, Phenylephrine, Vasopressin for MAP > 65
   - Hydrocortisone 100mg IV Q8
   - Follow-up blood / urine culture, daily blood cultures
   - Sputum culture: GPC on gram stain
   - Esophageal balloon for PEEP / CVP monitoring
   - On bicarbonate gtt for profound acidemia
   - Continue Levo/Zosyn, will likely not need more Vanc given oliguria
   - Continue volume resuscitation with 2L D5 Bicarb
   - Consider Zygris
   - f/u urine legionella
   - f/u respiratory viral cx
   - f/u vanc level and re-dose accordingly
   .
   # Respiratory failure [**2-13**] PNA: Community acquired.  Did recently have
   PNA in FL in [**11-19**] and was hospitalized at that time as well.
   Spirometry suggests a restrictive underlying lung disease in [**2111**], does
   have h/o tobacco but no current use per review of OMR.  Blood cultures
   in ED and receieved Vanc / Levo / Flagyl.  Transfered on CMV.  Patient
   did receive PNA in [**Month (only) 1780**].
   - Vanc / Zosyn / Levo for HAP requiring ICU level of care
   - Sputum culture: GPC
   - Follow-up blood cultures
   - VAP bundle
   - Consider Ipratroprium / Albuterol if poor ventilation given tobacco
   history
   - Esopagheal balloon for PEEP titration
   .
   # Anion Gap Metabolic Acidosis: With both lactic acidosis and ketones
   on UA.  No uremia or history of toxic ingestions.  Recieved substantial
   amount of NS in ED. Serum tox negative.  Now with  worsening lactic
   acidosis.
   - Sepsis treatment as above, trend lactic acid
   - Continue IVFs given oliguria
   - Insulin as above
   .
   # Leukopenia: WBC 3.3 with 50% PMNs, 29% bands.  Not neutropenic.
   Likely suppresssed [**2-13**] acute infection.
   - Trend, follow-up diff, ? developing neutropenia
   .
   # Thrombocytopenia: Decreased since prior but last in [**2110**].  Could be
   [**2-13**] suppression from acute infection or chronic liver disease with
   decreased thrombopoetin.
   - Trend
   - follow DIC labs
   .
   # Mild transaminitis / Elevated INR: Likely [**2-13**] infection, but could be
   med effect, chronic liver disease or poor flow. Serum tox negative.
   - Trend
   .
   # DM: On insulin.  Unclear prior dosing.
   - put on insulin gtt
   - FS QID
   .
   # Anemia:  HCT downward trending
   - trend
   - guaiac all stools
   .
   # Oliguria: Urine output minimal
   - consider CVVH
   .
   # Hypertension: Septic on admission with hypotension requiring
   Levophed.
   - Hold Atenolol
   .
   # Hypothyroidism: h/o [**Doctor Last Name 3691**] disease s/p ablation.
   - Continue Levoxyl IV (1/2 dose po)
   .
   # Hyperlipidemia / CAD: Followed by Dr. [**Last Name (STitle) 449**].  On Atorvastatin,
   Aspirin and Atenolol as outpatient.
   - Hold medications until condition improves
   .
   # Elevated CK: Noted previously, but patient also found down for
   unclear duration of time.  Cr stable, has received 8L NS in ED, which
   should be appropriate hydration of any element of rhabdo.
   - Monitor CK trend, Cr
   .
   # FEN: IVF judiciously, replete electrolytes PRN, NPO
   .
   # Prophylaxis: PPI / VAP bundle / Pneumoboots
   .
   # Access:
   18 Gauge - [**2113-3-27**] 09:49 PM
   Multi Lumen - [**2113-3-27**] 10:29 PM
   Arterial Line - [**2113-3-28**] 12:30 AM
   # Code:  Full, ICU consent signed by daughter
   # Communication: Patient / Daughter, [**First Name4 (NamePattern1) 5199**] [**Last Name (NamePattern1) 5200**] [**Telephone/Fax (1) 5201**] (home),
   [**Telephone/Fax (1) 5202**] (cell)
   # Disposition: Pending improvement

2113-03-28 09:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 y/o f who p/w severe bilat CAP and sepsis, intubated for WOB,
   hypotensive to SBP 60s, given 8L IVF, had difficulty ventilating, added
   paralytics. Esophageal ballon dropped and PEEP increased to 18. Started
   bicard gtt for severe metabolic acidosis. Initially given
   vanco/levo/flagyl, now on vanco/zosyn/flagyl. Now on max dose
   levo/neo/vaso.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2113-3-27**] 09:35 PM
 MULTI LUMEN - START [**2113-3-27**] 10:29 PM
 ARTERIAL LINE - START [**2113-3-28**] 12:30 AM
 NASAL SWAB - At [**2113-3-28**] 01:10 AM
 SPUTUM CULTURE - At [**2113-3-28**] 01:10 AM
 BLOOD CULTURED - At [**2113-3-28**] 03:28 AM
 EKG - At [**2113-3-28**] 03:28 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2113-3-28**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Phenylephrine - 2 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Cisatracurium - 0.06 mg/Kg/hour
   Norepinephrine - 0.35 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-3-27**] 11:49 PM
   Heparin Sodium (Prophylaxis) - [**2113-3-27**] 11:49 PM
   Vecuronium - [**2113-3-28**] 04:50 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2113-3-28**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-3-28**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.4
   Tcurrent: 39.7
C (103.4
   HR: 93 (93 - 112) bpm
   BP: 134/51(68) {103/45(-10) - 151/60(83)} mmHg
   RR: 32 (29 - 32) insp/min
   SpO2: 73%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 22 (13 - 22)mmHg
   Bladder pressure: 10 (10 - 10) mmHg
   Mixed Venous O2% Sat: 66 - 93
   Total In:
                                                                    395 mL
                                                                  2,050 mL
   PO:
   TF:
   IVF:
                                                                    395 mL
                                                                  1,950 mL
   Blood products:
   Total out:
                                                                     90 mL
                                                                    195 mL
   Urine:
                                                                     90 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    305 mL
                                                                  1,855 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 450) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 36 cmH2O
   Plateau: 33 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 73%
   ABG: 7.14/47/82.[**Numeric Identifier 253**]/16/-13
   Ve: 13.1 L/min
   PaO2 / FiO2: 83
   Physical Examination
   Gen: sedated
   HEENT: mmdry
   CV: RRR no m/r/g
   Pulm: Bilat crackles
   Abd: s/nt/nd no BS
   Ext: cold, blue fingers bilat
   Labs / Radiology
   11.6 g/dL
   93 K/uL
   148 mg/dL
   1.3 mg/dL
   16 mEq/L
   4.5 mEq/L
   21 mg/dL
   114 mEq/L
   138 mEq/L
   32.5 %
   2.1 K/uL
        [image002.jpg]
                             [**2113-3-27**]  10:31 PM
                             [**2113-3-27**]  11:21 PM
                             [**2113-3-28**]  01:29 AM
                             [**2113-3-28**]  02:16 AM
                             [**2113-3-28**]  03:15 AM
                             [**2113-3-28**]  03:24 AM
                             [**2113-3-28**]  03:59 AM
                             [**2113-3-28**]  05:06 AM
                             [**2113-3-28**]  06:20 AM
                             [**2113-3-28**]  08:24 AM
   WBC
   2.1
   Hct
   35
   32.5
   Plt
   93
   Cr
   1.3
   TropT
   0.04
   TCO2
   18
   17
   17
   16
   20
   16
   18
   17
   Glucose
   148
   Other labs: PT / PTT / INR:18.1/64.8/1.7, CK / CKMB /
   Troponin-T:794/7/0.04, ALT / AST:34/60, Alk Phos / T Bili:63/1.2,
   Differential-Neuts:69.0 %, Lymph:26.7 %, Mono:2.3 %, Eos:1.4 %,
   Fibrinogen:390 mg/dL, Lactic Acid:5.5 mmol/L, Ca++:6.1 mg/dL, Mg++:2.3
   mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
   1. Sepsis: Due to CAP
   -bolus 2L bicarb
   -CV sat
   -hydrocort 100 mg IV q8h
   -consider xigris
   -urine legionella, viral cx
   -vanco/zosyn/levofloxacin
   -follow vigileo as appears fluid responsive
   2. PNA and ARDS
   -titrate esophageal balloon to EEPpl to +1
   -cont. 6cc/kg
   -cont. paralytics
   3. DM2:
   -BS out of control
   -start insulin gtt
   4. CAD: Holding meds
   -CE flat
   5. Hct drop: [**Month (only) 8**] be dilutional
   -DIC labs
   -IV PPI
   -Type and cross
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2113-3-27**] 09:49 PM
   Multi Lumen - [**2113-3-27**] 10:29 PM
   Arterial Line - [**2113-3-28**] 12:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Since admission, pt has rapidly deteriorated
   with multi-organ failure from Influenza B PNA, probably strep
   superinfection (Sputum GS +GPC prs) /sepsis. Currently, she has
   marginal oxygenation& ventilation, BP, persistent acidosis, and is in
   oliguric renal failure on maximal ventilatory support (FiO2 1.0, PEEP
   20 with esoph. Balloon monitoring & paralysis), 4 pressors, steroids.
   Xigris started this afternoon due to severity of sepsis. This was
   discussed ahead of time with her family, esp. with recent history of
   unwitnessed fall and no head CT- they were made aware of the increased
   risk of bleeding on this medicine and still desired that we proceed.
   Family has been updated of her poor prognosis and outlook, still desire
   aggressive measures. Continuing antibiotics and pressor/ventilator
   support.
   Pt is critically ill.
   Total time spent on pt: 140 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 5217**], RN
   on:[**2113-3-28**] 19:49 ------
   The above note was written by me but was inadvertently entered under
   the name of [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 5217**], RN. I have re-written the note below.
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Since admission, pt has rapidly deteriorated
   with multi-organ failure from Influenza B PNA, probably strep
   superinfection (Sputum GS +GPC prs) /sepsis. Currently, she has
   marginal oxygenation& ventilation, BP, persistent acidosis, and is in
   oliguric renal failure on maximal ventilatory support (FiO2 1.0, PEEP
   20 with esoph. Balloon monitoring & paralysis), 4 pressors, steroids.
   Xigris started this afternoon due to severity of sepsis. This was
   discussed ahead of time with her family, esp. with recent history of
   unwitnessed fall and no head CT- they were made aware of the increased
   risk of bleeding on this medicine and still desired that we proceed.
   Family has been updated of her poor prognosis and outlook, still desire
   aggressive measures. Continuing antibiotics and pressor/ventilator
   support.
   Pt is critically ill.
   Total time spent on pt: 140 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2113-3-28**] 19:52 ------

2113-03-29 09:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Legionella Ag neg. PEEP increased to 20 by esophageal balloon.
 FEVER - 103.4
F - [**2113-3-28**] 07:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-3-28**] 01:13 PM
   Piperacillin - [**2113-3-29**] 05:04 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Cisatracurium - 0.06 mg/Kg/hour
   Dobutamine - 3.5 mcg/Kg/min
   Midazolam (Versed) - 8 mg/hour
   Insulin - Regular - 4.5 units/hour
   Fentanyl - 300 mcg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Phenylephrine - 3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-3-29**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 36.2
C (97.1
   HR: 80 (80 - 101) bpm
   BP: 134/53(78) {85/38(51) - 168/58(90)} mmHg
   RR: 32 (0 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 23 (13 - 347)mmHg
   Bladder pressure: 15 (15 - 15) mmHg
   Mixed Venous O2% Sat: 58 - 95
   Total In:
                                                                 10,530 mL
                                                                  4,310 mL
   PO:
   TF:
   IVF:
                                                                 10,430 mL
                                                                  4,310 mL
   Blood products:
   Total out:
                                                                    325 mL
                                                                     40 mL
   Urine:
                                                                    325 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 10,205 mL
                                                                  4,270 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 30 cmH2O
   Compliance: 38 cmH2O/mL
   SpO2: 97%
   ABG: 7.31/54/66/24/0
   Ve: 12.4 L/min
   PaO2 / FiO2: 66
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   diffusely)
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   37 K/uL
   128 mg/dL
   3.2 mg/dL
   24 mEq/L
   4.2 mEq/L
   33 mg/dL
   96 mEq/L
   135 mEq/L
   27.6 %
   6.6 K/uL
        [image002.jpg]
                             [**2113-3-28**]  12:53 PM
                             [**2113-3-28**]  01:58 PM
                             [**2113-3-28**]  02:21 PM
                             [**2113-3-28**]  05:25 PM
                             [**2113-3-28**]  08:37 PM
                             [**2113-3-28**]  09:11 PM
                             [**2113-3-28**]  09:15 PM
                             [**2113-3-28**]  11:28 PM
                             [**2113-3-29**]  05:09 AM
                             [**2113-3-29**]  05:35 AM
   WBC
   3.8
   5.3
   6.6
   Hct
   30.7
   30.2
   34
   27.6
   Plt
   57
   49
   37
   Cr
   2.5
   2.8
   3.2
   TCO2
   22
   21
   23
   24
   27
   28
   Glucose
   [**Telephone/Fax (3) 5228**]
   Other labs: PT / PTT / INR:22.9/77.2/2.2, CK / CKMB /
   Troponin-T:794/7/0.04, ALT / AST:34/60, Alk Phos / T Bili:63/1.2,
   Differential-Neuts:69.0 %, Lymph:26.7 %, Mono:2.3 %, Eos:1.4 %,
   D-dimer:7262 ng/mL, Fibrinogen:336 mg/dL, Lactic Acid:6.6 mmol/L,
   LDH:307 IU/L, Ca++:6.6 mg/dL, Mg++:1.7 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
   1. Sepsis:
   -follow SVV, bolus for SVV >15%
   -dobutamine/levophed/neo/vaso
   -transfuse for hct <22%
   -likely influenza with bacterial CAP
   -vanco/zosyn/levo/tamiflu
   -check vanco level
   -hold paralytics until a measurable TOF or becomes dysynchronous
   -switch aline to other hand
   -cont. tamiflu
   2. ARDS: Cont. TV 6cc/kg
   -q2-4h ABGs
   -albuterol MDIs
   -check PEEP by balloon
   3. Heme: Consistent with sepsis
   -give plt for plt <15
   -follow coags, give FFP if bleeding
   4. ARF:
   -discuss CVVH with renal
   -hold bicarb gtt
   5. Metab acidosis:
   -hold bicarb gtt for now, follow ABGs
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2113-3-27**] 09:49 PM
   Multi Lumen - [**2113-3-27**] 10:29 PM
   Arterial Line - [**2113-3-28**] 12:30 AM
   20 Gauge - [**2113-3-28**] 01:28 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of service provided. 73 yo female admitted with influenza
   B PNA/sepsis and multi-organ failure, with respiratory failure, shock,
   acidosis, renal failure, coagulopathy, and thrombocytopenia.
   Xigris stopped overnight due to worsening coag
s (PTT above upper limit
   of detectable). Remains on levophed/vasopressin/neo/dobutamine for
   pressor support, ARDS net ventilation (FiO1 1, PEEP increased to 25).
   Sputum cultures growing out staph aureus. Leukopenia improving, remains
   oliguric.
   Problem [**Name (NI) 670**]
   Influenza B PNA with Staph superinfection
   Sepsis with respiratory failure, shock, coagulopathy, thrombocytopenia,
   acidosis
   Oliguric renal failure (hypotension/ATN)
   Vent/pressor requirement relatively unchanged or slightly better. Will
   continue PEEP as guided by esophageal balloon, wean FiO2 as able,
   maintain MAP>65 with pressors and fluids for SVV>15. Renal to proceed
   with dialysis catheter and CVVH today.
   Family updated at bedside.
   Pt is critically ill. Time spent: 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2113-3-29**] 14:13 ------

2113-03-30 07:47:00 Physician Resident Progress Note
TITLE: Resident Progress Note
   Chief Complaint: Pneumonia / Sepsis / Influenza
   24 Hour Events:
 DIALYSIS CATHETER - START [**2113-3-29**] 01:42 PM
 ARTERIAL LINE - STOP [**2113-3-29**] 04:34 PM
 ARTERIAL LINE - START [**2113-3-29**] 04:44 PM
   - A-line switched to left arm
   - staph in sputum
   - paralytic stopped
   - HD line placed, transfused 1 unit plts
   - CVVH initiaited, within 45 minutes, pt notes to have ST segment
   elevations in inferolateral leads.  Confirmed by 12 lead.  @ u pRBCs
   ordered.  Pt then went into AFib with RVR.  Rate in 140s but blood
   pressure to 160s.  CVVH stopped.  Levo weaned and SBP dropped to 60s,
   restarted.  Pt remained in afib with rate ~120.  Pt stabilized, back on
   4 pressors for about 4 hours.  FiO2 weaned to 80%.  Restarted CVVH and
   checked gas, pH dropped to 7.22/55/106.  Stat CXR ordered, RR increased
   from 22 to 24.  Dobutamine stopped.
   - transfused 2 units pRBCs
   - Trop 1.36
   - large amount of dark, green fluid suction from stomach, gastroccult
   positive
   - transfused 1u plts for plt of 46 and ? GI bleed
   - PPI increased to [**Hospital1 **]
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-3-28**] 01:13 PM
   Piperacillin - [**2113-3-29**] 04:31 PM
   Levofloxacin - [**2113-3-30**] 06:34 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 2 grams/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 3.5 mcg/Kg/min
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Genitourinary: Foley, Dialysis
   Endocrine: Hyperglycemia, History of thyroid disease
   Heme / Lymph: Anemia, Coagulopathy
   Flowsheet Data as of  [**2113-3-30**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 108 (74 - 124) bpm
   BP: 87/56(80) {78/45(59) - 170/69(102)} mmHg
   RR: 0 (0 - 32) insp/min
   SpO2: 78%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 346 (15 - 346)mmHg
   Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                 10,538 mL
                                                                  3,400 mL
   PO:
   TF:
   IVF:
                                                                  9,437 mL
                                                                  3,118 mL
   Blood products:
                                                                  1,101 mL
                                                                    282 mL
   Total out:
                                                                    228 mL
                                                                    211 mL
   Urine:
                                                                     61 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 10,310 mL
                                                                  3,189 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 25 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability, Unstable
   Airway
   PIP: 43 cmH2O
   Plateau: 39 cmH2O
   Compliance: 31.7 cmH2O/mL
   SpO2: 78%
   ABG: 7.22/52/119/15/-6
   Ve: 13.9 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   56 K/uL
   10.6 g/dL
   156 mg/dL
   2.9 mg/dL
   15 mEq/L
   5.0 mEq/L
   28 mg/dL
   93 mEq/L
   131 mEq/L
   30.6 %
   13.7 K/uL
        [image002.jpg]
                             [**2113-3-29**]  04:28 PM
                             [**2113-3-29**]  06:45 PM
                             [**2113-3-29**]  06:59 PM
                             [**2113-3-30**]  01:16 AM
                             [**2113-3-30**]  01:38 AM
                             [**2113-3-30**]  02:04 AM
                             [**2113-3-30**]  02:19 AM
                             [**2113-3-30**]  03:58 AM
                             [**2113-3-30**]  05:17 AM
                             [**2113-3-30**]  05:38 AM
   WBC
   9.8
   13.7
   Hct
   26
   30.6
   30.6
   Plt
   46
   56
   Cr
   3.4
   3.2
   2.9
   TropT
   1.36
   1.26
   TCO2
   26
   25
   24
   22
   23
   22
   Glucose
   101
   123
   129
   156
   Other labs: PT / PTT / INR:17.5/69.5/1.6, CK / CKMB /
   Troponin-T:6597/90/1.26, ALT / AST:34/60, Alk Phos / T Bili:63/1.2,
   Differential-Neuts:77.0 %, Band:3.0 %, Lymph:8.0 %, Mono:12.0 %,
   Eos:0.0 %, D-dimer:7262 ng/mL, Fibrinogen:336 mg/dL, Lactic Acid:8.0
   mmol/L, LDH:307 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERGLYCEMIA
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
   73 yo F with DM, HTN, Hyperlipidemia, p/w PNA, intubated in the ED
   # Sepsis: Likely source is PNA given clinical history, leukocytosis
   with bandemia and CXR findings.  Other possiblities include urine or
   bowel.  Patient given 8L NS in ED, CVP 20, SVO2 92, on Levophed.
   Basically, has recieved Early Goal Directed therapy in ED.  Lactate
   6.7, then 2.4 on transfer from ED.  Hct 38.  Then required 3 pressor
   support for MAP > 65. urine legionella, negative.  Viral studies
   revealed + Influenza B.  Xigris started and stopped for PTT>100, rising
   INR, dropping PLTs.  Cultures thus far only with GPC on sputum gram
   stain but then oropharyngeal flora on culture.  No positive blood
   cultures to date.  Dobutamine started [**3-28**] with improved SvO2, then
   stopped [**3-29**] with concern for NSTEMI.
   - Trend HCT, transfuse > 22 PRN :: transfused [**3-29**] x 2u PRBC
   - Levophed, Phenylephrine, Vasopressin for MAP > 65
   - Hydrocortisone 100mg IV Q8
   - Follow-up blood / urine culture, daily blood cultures
   - Sputum culture: GPC on gram stain, no growth
   - Esophageal balloon for PEEP / CVP monitoring, bolus as needed D5
   Bicarb
   - Continue Levo/Zosyn/Vanc & Tamiflu
   - f/u vanc level and re-dose accordingly
   - Paralyzed, monitoring train of 4
   # Respiratory failure [**2-13**] PNA: Community acquired.  Did recently have
   PNA in FL in [**11-19**] and was hospitalized at that time as well.
   Spirometry suggests a restrictive underlying lung disease in [**2111**], does
   have h/o tobacco but no current use per review of OMR.  Blood cultures
   in ED and receieved Vanc / Levo / Flagyl.  Transfered on CMV.  Patient
   did receive PNA in [**Month (only) 1780**].
   - Vanc / Zosyn / Levo / Tamiflu for HAP requiring ICU level of care
   - Sputum culture: GPC &  follow-up blood cultures
   - Albuterol MDIs
   - Esophageal balloon for PEEP titration
   # NSTEMI & new onset Afib: Patient noted to have ST changes on
   telemetry [**3-29**], soon followed by new onset Afib with RVR.  Troponin
   peaked 1.36.  Likely NSTEMI given severity of general illness.  Afib in
   the setting of ischemia.  Not rate controlling or anticoagulating.
   Holding aspirin, BB; consider restarting Statin.
   - telemetry, consider restart Statin
   # Anion Gap Metabolic Acidosis: With both lactic acidosis and ketones
   on UA.  history of toxic ingestions.  Recieved substantial amount of NS
   in ED. Serum tox negative.  Now with continued lactic acidosis & some
   uremia.
   - Sepsis treatment as above, trend lactic acid
   - Insulin as above & CVVH per Renal
   # Thrombocytopenia: Decreased since prior but last in [**2110**].  Could be
   [**2-13**] suppression from acute infection or chronic liver disease with
   decreased thrombopoetin. DIC labs negative [**3-28**].
   - Trend, transfuse < 15
   # Mild transaminitis / Elevated INR: Likely [**2-13**] infection, could be med
   effect, chronic liver disease or poor flow. Serum tox (-).
   - Give FFP only if evidence of bleeding or need for procedure (given 2u
   prior to HD line placement [**3-29**])
   # DM: On insulin.  Unclear prior dosing.
   - put on insulin gtt
   - FS Q2H
   # Anemia:  HCT downward trending.  Transfused 2u PRBC [**3-29**].  Also with
   gastro occult positive OG output.
   - trend, transfuse < 22
   # Oliguria / Acute Renal Failure: Urine output minimal.  Renal
   consulted, likely [**2-13**] prerenal / sepsis / ATN.
   - CVVH & Renal recs
   # Hypothyroidism: h/o [**Doctor Last Name 3691**] disease s/p ablation.
   - Continue Levoxyl IV (1/2 dose po)
   # Hyperlipidemia / CAD / Hypertension: Followed by Dr. [**Last Name (STitle) 449**].  On
   Atorvastatin, Aspirin and Atenolol as outpatient.
   - Hold medications until condition improves
   # Elevated CK: Noted previously, but patient also found down for
   unclear duration of time.  Cr stable, has received 8L NS in ED, which
   should be appropriate hydration of any element of rhabdo.
   - Monitor CK trend, Cr
   .
   # FEN: IVF PRN, replete electrolytes PRN, NPO
   # Prophylaxis: PPI / VAP bundle / Pneumoboots
   # Code:  Full, ICU consent signed by daughter
   # Communication: Patient / Daughter, [**First Name4 (NamePattern1) 5199**] [**Last Name (NamePattern1) 5200**] [**Telephone/Fax (1) 5201**] (home),
   [**Telephone/Fax (1) 5202**] (cell)
   # Disposition: Pending improvement
   ICU Care
   Glycemic Control:
   Lines:
   18 Gauge - [**2113-3-27**] 09:49 PM
   Multi Lumen - [**2113-3-27**] 10:29 PM
   Dialysis Catheter - [**2113-3-29**] 01:42 PM
   Arterial Line - [**2113-3-29**] 04:44 PM

2113-03-30 11:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   When CVVH started yesterday developed STE in inflat leads, CVVH
   stopped, then developed afib w RVR, trop 1.36 peak, afib w RVR, HR
   remained in 100-120s with elevation in BP from prior. Off dobutamine.
   Back on CVVH running positive.
 DIALYSIS CATHETER - START [**2113-3-29**] 01:42 PM
 ARTERIAL LINE - STOP [**2113-3-29**] 04:34 PM
 ARTERIAL LINE - START [**2113-3-29**] 04:44 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-3-28**] 01:13 PM
   Piperacillin - [**2113-3-29**] 04:31 PM
   Levofloxacin - [**2113-3-30**] 06:34 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Phenylephrine - 3.5 mcg/Kg/min
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 300 mcg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-3-30**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.7
C (96.3
   HR: 104 (74 - 124) bpm
   BP: 87/56(80) {78/45(59) - 170/69(102)} mmHg
   RR: 15 (0 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 346 (15 - 346)mmHg
   Total In:
                                                                 10,538 mL
                                                                  4,564 mL
   PO:
   TF:
   IVF:
                                                                  9,437 mL
                                                                  4,282 mL
   Blood products:
                                                                  1,101 mL
                                                                    282 mL
   Total out:
                                                                    228 mL
                                                                    332 mL
   Urine:
                                                                     61 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 10,310 mL
                                                                  4,232 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 25 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability, Unstable
   Airway
   PIP: 43 cmH2O
   Plateau: 39 cmH2O
   Compliance: 31.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.21/52/77/15/-7
   Ve: 13.9 L/min
   PaO2 / FiO2: 110
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: bilat, Wheezes : end insp bilat)
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   56 K/uL
   156 mg/dL
   2.9 mg/dL
   15 mEq/L
   5.0 mEq/L
   28 mg/dL
   93 mEq/L
   131 mEq/L
   28.6 %
   13.7 K/uL
        [image002.jpg]
                             [**2113-3-29**]  06:59 PM
                             [**2113-3-30**]  01:16 AM
                             [**2113-3-30**]  01:38 AM
                             [**2113-3-30**]  02:04 AM
                             [**2113-3-30**]  02:19 AM
                             [**2113-3-30**]  03:58 AM
                             [**2113-3-30**]  05:17 AM
                             [**2113-3-30**]  05:38 AM
                             [**2113-3-30**]  09:24 AM
                             [**2113-3-30**]  10:20 AM
   WBC
   9.8
   13.7
   Hct
   26
   30.6
   30.6
   28.6
   Plt
   46
   56
   Cr
   3.2
   2.9
   TropT
   1.26
   TCO2
   25
   24
   22
   23
   22
   22
   Glucose
   123
   129
   156
   Other labs: PT / PTT / INR:17.5/69.5/1.6, CK / CKMB /
   Troponin-T:6597/90/1.26, ALT / AST:34/60, Alk Phos / T Bili:63/1.2,
   Differential-Neuts:77.0 %, Band:3.0 %, Lymph:8.0 %, Mono:12.0 %,
   Eos:0.0 %, D-dimer:7262 ng/mL, Fibrinogen:336 mg/dL, Lactic Acid:7.9
   mmol/L, LDH:307 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERGLYCEMIA
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
   1. Sepsis: [**2-13**] bacterial PNA and influenza
   -vanco/zosyn/levaquin
   -wean levophed
   -check SVV
   -day 3 of steroids
   -check CV sat
   2. ARDS: Esophageal ballon, PEEP at 25 with TPP at end exp of +1
   -recheck HCO3 if still <15 restart HCO3 gtt
   -cont. 7 cc/kg TV
   -titrate down versed and fentanyl given no dysynchrony or overbreathing
   3. NSTEMI: Likely strain in setting of CVVH
   -follow afib, consider amio if unstable
   -keep hct ~30
   4. Anemia: Possible UGIB
   5. BS: Cont. insulin gtt
   6. Hypothyroidism: cont. IV levoxyl
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2113-3-27**] 09:49 PM
   Multi Lumen - [**2113-3-27**] 10:29 PM
   Dialysis Catheter - [**2113-3-29**] 01:42 PM
   Arterial Line - [**2113-3-29**] 04:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with Dr. [**First Name (STitle) 1516**] for key
   portions of the services provided. I would add the following: 73 yo
   female admitted with influenza B and staph PNA with sepsis and
   multi-organ failure. Developed inferolateral ST elevation in the
   setting of afib.
   She remains off paralytics but is minimally responsive. Requiring
   levophed/vasopressin/neo gtt
s to maintain MAP>65. FiO2 down to 0.6,
   still on PEEP 25 (trans-pulm end-exp pressure still +1) Lungs with
   bilateral rhonchi and wheezes. CV: RRR. Abd: distended but soft,
   hypoactive bs.
   WBC 13, plts and coags improving. Sputum Cx: MSSA
   Imp: Influenza B and MSSA pneumonia with septic shock, acute
   respiratory failure, acute renal failure, acidosis, coagulopathy,
   thrombocytopenia.
   Plan: *Wean vent as tolerated
           *Lighten sedation
           *Continue steroids (total 5 day course)
            *Narrow abx coverage to Nafcillin
           *Continue CVVH
   Pt is critically ill. Time spent on pt: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2113-3-30**] 18:00 ------

2113-03-31 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: pneumonia
   24 Hour Events:
   - Central venous O2 sat checked = 84
   - Discontinued standing D5W with bicarbonate
   - Renal recs: monitor bicarbonate, start gtt if <20
   - Vanc/Zosyn dosing changed to CVVH dosing
   - Cultures with MSSA --> antibiotics narrowed to Nafcillin
   - Weaned O2 to 60%
   - Hct monitored Q6H 30.6 --> 28.6 --> 29.7
   - 9:15pm patient converted to SR with rate 70 and decreased SBP 105;
   slowly improved
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2113-3-29**] 04:31 PM
   Levofloxacin - [**2113-3-30**] 06:34 AM
   Vancomycin - [**2113-3-30**] 12:16 PM
   Piperacillin/Tazobactam (Zosyn) - [**2113-3-30**] 02:15 PM
   Nafcillin - [**2113-3-31**] 04:20 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 7 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl - 275 mcg/hour
   Phenylephrine - 2.5 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-3-30**] 08:00 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Eyes: Conjunctival edema
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Edema
   Nutritional Support: NPO
   Respiratory: Wheeze
   Genitourinary: Foley, Dialysis
   Endocrine: Hyperglycemia, History of thyroid disease
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2113-3-31**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.5
   HR: 65 (65 - 112) bpm
   BP: 87/56(80) {0/0(0) - 0/0(0)} mmHg
   RR: 0 (0 - 34) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 23 (23 - 291)mmHg
   Mixed Venous O2% Sat: 98 - 98
   Total In:
                                                                  9,621 mL
                                                                  2,294 mL
   PO:
   TF:
   IVF:
                                                                  9,061 mL
                                                                  2,294 mL
   Blood products:
                                                                    560 mL
   Total out:
                                                                  1,168 mL
                                                                    602 mL
   Urine:
                                                                     20 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,453 mL
                                                                  1,692 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 25 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 44 cmH2O
   Plateau: 40 cmH2O
   SpO2: 90%
   ABG: 7.33/46/115/24/-1
   Ve: 13.8 L/min
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Absent), (Left radial pulse:
   Absent), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   59 K/uL
   10.5 g/dL
   97 mg/dL
   2.0 mg/dL
   24 mEq/L
   3.7 mEq/L
   20 mg/dL
   94 mEq/L
   134 mEq/L
   29.7 %
   19.7 K/uL
        [image002.jpg]
                             [**2113-3-30**]  10:20 AM
                             [**2113-3-30**]  11:20 AM
                             [**2113-3-30**]  02:29 PM
                             [**2113-3-30**]  03:45 PM
                             [**2113-3-30**]  04:20 PM
                             [**2113-3-30**]  08:12 PM
                             [**2113-3-30**]  10:00 PM
                             [**2113-3-30**]  10:26 PM
                             [**2113-3-31**]  04:08 AM
                             [**2113-3-31**]  04:29 AM
   WBC
   19.7
   Hct
   29.7
   29.7
   Plt
   92
   59
   Cr
   2.3
   2.1
   2.0
   TCO2
   22
   23
   25
   25
   24
   25
   Glucose
   130
   125
   97
   Other labs: PT / PTT / INR:17.5/49.1/1.6, CK / CKMB /
   Troponin-T:6597/90/1.26, ALT / AST:34/60, Alk Phos / T Bili:63/1.2,
   Differential-Neuts:77.0 %, Band:3.0 %, Lymph:8.0 %, Mono:12.0 %,
   Eos:0.0 %, D-dimer:7262 ng/mL, Fibrinogen:336 mg/dL, Lactic Acid:6.1
   mmol/L, LDH:307 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
   73 yo F with DM, HTN, Hyperlipidemia, p/w PNA, intubated in the ED
   # Sepsis: Likely source is PNA given clinical history, leukocytosis
   with bandemia and CXR findings.  Other possiblities include urine or
   bowel.  Patient given 8L NS in ED, CVP 20, SVO2 92, on Levophed.
   Basically, has recieved Early Goal Directed therapy in ED.  Lactate
   6.7, then 2.4 on transfer from ED.  Hct 38.  Then required 3 pressor
   support for MAP > 65. urine legionella, negative.  Viral studies
   revealed + Influenza B.  Xigris started and stopped for PTT>100, rising
   INR, dropping PLTs.  Cultures thus far only with GPC on sputum gram
   stain but then oropharyngeal flora on culture.  No positive blood
   cultures to date.  Dobutamine started [**3-28**] with improved SvO2, then
   stopped [**3-29**] with concern for NSTEMI.
   - Trend HCT, transfuse > 27 PRN (transfused [**3-29**] x 2u PRBC)
   - Levophed, Phenylephrine, Vasopressin for MAP > 65
   - Hydrocortisone 100mg IV Q8
   - Follow-up blood / urine culture,
   - Sputum culture: GPC on gram stain, MSSA
 Naficillin
   - Esophageal balloon for PEEP / CVP monitoring, bolus as needed D5
   Bicarb
   - Continue Levo/Zosyn/Vanc
 narrowed to Nafcillin [**3-30**]
   - Continue Tamiflu
   - Bolus with albumin for high SVV
   .
   # Respiratory failure [**2-13**] PNA: Community acquired.  Did recently have
   PNA in FL in [**11-19**] and was hospitalized at that time as well.
   Spirometry suggests a restrictive underlying lung disease in [**2111**], does
   have h/o tobacco but no current use per review of OMR.  Blood cultures
   in ED and receieved Vanc / Levo / Flagyl.  Transfered on CMV.  Patient
   did receive PNA in [**Month (only) 1780**].
   - Vanc / Zosyn / Levo / Tamiflu for HAP requiring ICU level of care
   - Sputum culture: GPC / MSSA &  follow-up blood cultures
   - Albuterol MDIs
   - Esophageal balloon for PEEP titration, wean down PEEP as tolerated
   # NSTEMI & new onset Afib: Patient noted to have ST changes on
   telemetry [**3-29**], soon followed by new onset Afib with RVR.  Troponin
   peaked 1.36.  Likely NSTEMI given severity of general illness.  Afib in
   the setting of ischemia.  Not rate controlling or anticoagulating.
   Holding aspirin, BB; consider restarting Statin.
   - Now in NSR
   - telemetry, consider restart statin in future
   # Anion Gap Metabolic Acidosis: With both lactic acidosis and ketones
   on UA.  history of toxic ingestions.  Recieved substantial amount of NS
   in ED. Serum tox negative.  Now with continued lactic acidosis & some
   uremia.
   - Sepsis treatment as above, trend lactic acid
   - Insulin as above & CVVH per Renal
   # Thrombocytopenia: Decreased since prior but last in [**2110**].  Could be
   [**2-13**] suppression from acute infection or chronic liver disease with
   decreased thrombopoetin. DIC labs negative [**3-28**].
   - Trend, transfuse PLTs < 15
   # Mild transaminitis / Elevated INR: Likely [**2-13**] infection, could be med
   effect, chronic liver disease or poor flow. Serum tox (-).
   - Give FFP only if evidence of bleeding or need for procedure (given 2u
   prior to HD line placement [**3-29**])
   # DM: On insulin.  Unclear prior dosing.
   - On RISS now, gtt off
   # Anemia:  HCT downward trending.  Transfused 2u PRBC [**3-29**].  Also with
   gastro occult positive OG output.
   - trend, transfuse < 27
   # Oliguria / Acute Renal Failure: Urine output minimal.  Renal
   consulted, likely [**2-13**] prerenal / sepsis / ATN.
   - CVVH & Renal recs
   # Hypothyroidism: h/o [**Doctor Last Name 3691**] disease s/p ablation.
   - Continue Levoxyl IV (1/2 dose po)
   # Hyperlipidemia / CAD / Hypertension: Followed by Dr. [**Last Name (STitle) 449**].  On
   Atorvastatin, Aspirin and Atenolol as outpatient.
   - Hold medications until condition improves
   # Elevated CK: Noted previously, but patient also found down for
   unclear duration of time.  Cr stable, has received 8L NS in ED, which
   should be appropriate hydration of any element of rhabdo.
   - Monitor CK trend, Cr
   # FEN: IVF PRN, replete electrolytes PRN, NPO
   # Prophylaxis: PPI / VAP bundle / Pneumoboots
   # Code:  Full, ICU consent signed by daughter
   # Communication: Patient / Daughter, [**First Name4 (NamePattern1) 5199**] [**Last Name (NamePattern1) 5200**] [**Telephone/Fax (1) 5201**] (home),
   [**Telephone/Fax (1) 5202**] (cell)
   # Disposition: Pending improvement
   Glycemic Control:
   Lines:
   18 Gauge - [**2113-3-27**] 09:49 PM
   Multi Lumen - [**2113-3-27**] 10:29 PM
   Dialysis Catheter - [**2113-3-29**] 01:42 PM
   Arterial Line - [**2113-3-29**] 04:44 PM

2113-03-31 09:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Given bolus for hish SVV. Converted to NSR. Weaned FiO2 to 60%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2113-3-29**] 04:31 PM
   Levofloxacin - [**2113-3-30**] 06:34 AM
   Vancomycin - [**2113-3-30**] 12:16 PM
   Piperacillin/Tazobactam (Zosyn) - [**2113-3-30**] 02:15 PM
   Nafcillin - [**2113-3-31**] 09:02 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Phenylephrine - 2.5 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Fentanyl - 250 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-3-30**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-3-31**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 69 (65 - 107) bpm
   BP: 87/56(80) {0/0(0) - 0/0(0)} mmHg
   RR: 34 (0 - 34) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
   CVP: 23 (23 - 291)mmHg
   Mixed Venous O2% Sat: 98 - 98
   Total In:
                                                                  9,621 mL
                                                                  2,780 mL
   PO:
   TF:
   IVF:
                                                                  9,061 mL
                                                                  2,780 mL
   Blood products:
                                                                    560 mL
   Total out:
                                                                  1,168 mL
                                                                    691 mL
   Urine:
                                                                     20 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,453 mL
                                                                  2,089 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 25 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 43 cmH2O
   Plateau: 39 cmH2O
   SpO2: 89%
   ABG: 7.33/46/115/24/-1
   Ve: 11.1 L/min
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: , Wheezes : end insp)
   Abdominal: Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   59 K/uL
   97 mg/dL
   2.0 mg/dL
   24 mEq/L
   3.7 mEq/L
   20 mg/dL
   94 mEq/L
   134 mEq/L
   29.7 %
   19.7 K/uL
        [image002.jpg]
                             [**2113-3-30**]  10:20 AM
                             [**2113-3-30**]  11:20 AM
                             [**2113-3-30**]  02:29 PM
                             [**2113-3-30**]  03:45 PM
                             [**2113-3-30**]  04:20 PM
                             [**2113-3-30**]  08:12 PM
                             [**2113-3-30**]  10:00 PM
                             [**2113-3-30**]  10:26 PM
                             [**2113-3-31**]  04:08 AM
                             [**2113-3-31**]  04:29 AM
   WBC
   19.7
   Hct
   29.7
   29.7
   Plt
   92
   59
   Cr
   2.3
   2.1
   2.0
   TCO2
   22
   23
   25
   25
   24
   25
   Glucose
   130
   125
   97
   Other labs: PT / PTT / INR:17.5/49.1/1.6, CK / CKMB /
   Troponin-T:6597/90/1.26, ALT / AST:34/60, Alk Phos / T Bili:63/1.2,
   Differential-Neuts:77.0 %, Band:3.0 %, Lymph:8.0 %, Mono:12.0 %,
   Eos:0.0 %, D-dimer:7262 ng/mL, Fibrinogen:336 mg/dL, Lactic Acid:6.1
   mmol/L, LDH:307 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERGLYCEMIA
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
   1. Sepsis: Weaned off levophed, may need more neo to run CVVH even
   today
   -influenza and MSSA PNA
   -pancx
   -CXR
   -albumin if SVV >15%
   -family meeting at 1pm
   2. ARDS: Decrease PEEP to 22
   -check ABGs q6h
   -sedation holiday then restart at 20% less
   3. NSTEMI: CE trending down
   -recheck CE
   4. Hyperglycemia: Off insulin gtt, SSI
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2113-3-27**] 09:49 PM
   Multi Lumen - [**2113-3-27**] 10:29 PM
   Dialysis Catheter - [**2113-3-29**] 01:42 PM
   Arterial Line - [**2113-3-29**] 04:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was physically present with the ICU
   team for the key portions of services provided. I agree with Dr.
   [**First Name (STitle) 1516**]
s note above, and would add: 73 yo female admitted with influenza
   B and MSSA PNA and sepsis resulting in multiorgan failure with acute
   respiratory failure, septic shock, acute renal failure. Over the past
   day, fiO2 requirement has decreased slightly, still requiring high
   levels of ventilatory support. Down to 2 pressors, but hemodynamics
   have been too tenuous to remove fluid through CVVHD, resulting in net
   ~30 liters positive since hospitalization.  Plans are to continue
   ventilator but attempt to decrease PEEP, use of pressors to maintain
   MAP>65, pan culture (has rising WBC this morning). Remains on nafcillin
   for MSSA.
   Conference was held with pt
s daughters, [**Name (NI) **] and [**Name (NI) 5199**], this
   afternoon, during which we discussed pt
s status and overall outlook.
   Even if she survives her hospitalization for severe sepsis,
   realistically the recovery process will be protracted, involving at
   best  trach/PEG and months in recovery, with unclear recovery of renal
   function and mental status. They felt that this scenario was not one
   that the patient would have been interested in, yet among the daughters
   there were differences in how ready they felt to change the goals of
   care, including the issue of resuscitation in case of a cardiac arrest.
   Will continue to support the family as they come to grips with her
   critically ill situation.
   Pt is critically ill. Total time spent: 85 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2113-3-31**] 16:01 ------